* Z:\mnt\design.r\spice\examples\4430.asc
XU1 N005 0 N008 N006 N002 N004 LTC3803
V1 IN 0 13
R1 IN N002 399
C1 N002 0 4.7µ
R2 N008 0 1000
M§Q1 N003 N004 N007 N007 FDS6680A
R3 N007 0 0.2
R4 N007 N006 5.1K
D1 N001 OUT MBRS1100
L1 0 N001 200µ
L2 IN N003 200µ
C2 OUT 0 100µ
XU2 N015 0 N014 0 N016 MOC205
R5 OUT N010 73.2K
R6 N010 0 10K
R7 N016 0 475K
R8 N009 N015 3K
C3 N011 0 .05µ
R9 N010 N013 200K
C4 N013 N012 .001µ
D2 N005 N014 1N4148
R10 N014 N017 4.99K
XU3 OUT 0 N011 N010 N012 N009 LT4430
V2 N017 0 5
C5 N007 0 .1µ
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 7m startup
.lib LT4430.sub
.lib LTC3803.sub
.lib MOC205.sub
.backanno
.end
